US07211440B2
4,4,5,5,6,6,6-Heptafluoro-1-(2-furyl)-1,3-hexanedione
The compound was synthesized according to example 1 using 2-acetylfuran and ethyl heptafluorobutyrate as starting materials. 1H NMR (CDCl3): 6.54 (s, 1 H); 6.65 (dd, 1 H, J=1.6 & 3.6 Hz); 7.37 (dd, 1 H, J=0.6 & 3.6 Hz); 7.70 (dd, 1 H, J=0.6 & 1.6 Hz). IR (film): 1616 (C═O); 1231 (C—F).

reactant | 2-acetylfuran | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | ethyl heptafluorobutyrate | FC(C(C(C(=O)OCC)(F)F)(F)F)(F)F | C6H5F7O2
product | 4,4,5,5,6,6,6-Heptafluoro-1-(2-furyl)-1,3-hexanedione | FC(C(CC(=O)C=1OC=CC1)=O)(C(C(F)(F)F)(F)F)F | C10H5F7O3
